2111-08-18 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - blood and sputum cx for fever during morning of [**2111-8-17**]
   - called from micro lab re: (+) blood cx from PICC line, GPC
   - [**Name8 (MD) **] RN: BP minimally responding to fluids and UOP low at 10-20
   cc/hr.  Bit improved during rounds (SBP 110s).
   - [**Name8 (MD) **] RN: obtaining approx 200 cc of biliary fluid from NG tube q6-12
   hours
   - on 2 versed, 25 fentanyl
   - on PS 5/5
   - with thick secretions, [**Name8 (MD) **] RN
   Allergies:
   Cipro (Oral) (Ciprofloxacin Hcl)
   Hives;
   Doxycycline
   Hives; hallucin
   Paxil (Oral) (Paroxetine Hcl)
   hair loss;
   Quinine
   Rash;
   Compazine (Injection) (Prochlorperazine Edisylate)
   muscle spasm;
   Levaquin (Oral) (Levofloxacin)
   tendinitis of t
   Lithium
   Hives;
   Cefepime
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2111-8-17**] 09:45 AM
   Meropenem - [**2111-8-17**] 08:21 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-8-17**] 11:10 PM
   Dextrose 50% - [**2111-8-18**] 04:40 AM
   Fentanyl - [**2111-8-18**] 04:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-8-18**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.5
   Tcurrent: 37.8
C (100
   HR: 118 (95 - 137) bpm
   BP: 122/58(74) {81/47(56) - 125/77(91)} mmHg
   RR: 20 (0 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 66 kg (admission): 66 kg
             Total In:
                                                                  4,506 mL
                                                                    754 mL
   PO:
             TF:
   IVF:
                                                                  4,331 mL
                                                                    604 mL
   Blood products:
   Total out:
                                                                  1,001 mL
                                                                  1,126 mL
   Urine:
                                                                    176 mL
                                                                    101 mL
   NG:
                                                                     45 mL
                                                                    625 mL
   Stool:
   Drains:
   Balance:
                                                                  3,505 mL
                                                                   -372 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 381 (381 - 381) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 42
   PIP: 6 cmH2O
   Plateau: 20 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 100%
   ABG: 7.27/50/64/19/-4
   Ve: 5.8 L/min
   PaO2 / FiO2: 128
   Physical Examination
   GEN: intubated, mildly sedated, appears in no distress, attempts to
   communicate with staff
   [**Name (NI) **]: mucous membranes dry, oropharynx clear
   CV: tachycardic, soft 2/6 systolic murmur
   LUNGS: coarse rhonchi in bilateral lung fields
   ABDOMEN: soft, distended, positive BS. ostomy bag in place with liquid
   output
   EXT: trace edema
   NEURO: follows commands, able to move [**Doctor Last Name **] extremities.
   Labs / Radiology
   76 K/uL
   8.1 g/dL
   101 mg/dL
   1.2 mg/dL
   19 mEq/L
   3.5 mEq/L
   53 mg/dL
   115 mEq/L
   143 mEq/L
   24.8 %
   10.0 K/uL
        [image002.jpg]
   Xray
 ETT, L PICC, infiltrate c/w asp pneumonia vs pneumonitis
                             [**2111-8-17**]  07:03 AM
                             [**2111-8-17**]  08:55 AM
                             [**2111-8-17**]  08:42 PM
                             [**2111-8-18**]  04:25 AM
                             [**2111-8-18**]  07:31 AM
   WBC
   10.0
   Hct
   24.8
   Plt
   76
   Cr
   1.2
   TCO2
   23
   25
   23
   24
   Glucose
   101
   Other labs: PT / PTT / INR:14.4/46.1/1.3, ALT / AST:36/64, Alk Phos / T
   Bili:530/2.1, Lactic Acid:1.2 mmol/L, Albumin:1.6 g/dL, LDH:197 IU/L,
   Ca++:6.4 mg/dL, Mg++:1.2 mg/dL, PO4:2.5 mg/dL
   Labs: urine Na 79
   Micro
   - sputum [**8-17**] neg
   - urine [**8-17**] pending
   - blood from picc line growing GPC [**8-17**]
   - C diff neg [**8-14**]
   Assessment and Plan
   56 yo female with hepatic sarcoid, gastroparesis and portal
   gastropathy, h/o aspiration who was noted to have vomiting this AM with
   aspiration event and subsequently became hypoxic and tachypneic
   intubation, now also febrile
   #) Hypoxia/Respiratory failure: most likely cause is aspiration given
   witnessed aspiration event.  Other possible causes are PE given RUE DVT
   and not on anticoagulation.  Could be bronchospasm given her COPD,
   especially since there is mild hypercarbia, though likely not the cause
   of her significant hypoxia
   - on PS 5/5 with okay oxygenation and ventilation.  Will support her
   through the aspiration pneumonia/bacteria and increase settings to
   [**11-21**].  RSBI 42 during SBT.
   - sputum/urine cx pending from [**2111-8-17**] (noted to have thick secretions
   [**Name8 (MD) **] RN)
   - on vanco/meropenem day 2 for possible aspiration pneumonia while
   awaiting culture data; has h/o zosyn resistant enterobacter in sputum
   previously
   - albuterol/ipratropium inhalers; hold off on steroids for now
   #) Sepsis/fevers/tachycardia/hypotension: likely in the setting of
   aspiration with ? pneumonia vs pneumonitis as well as bacteremia (PICC
   line infection).  Could be urinary source, but less likely given time
   frame
   - bacteremia may be trangient vs. contaminant vs. true pathogen.  Will
   tx as true pathogen and cont vanc/[**Last Name (un) 430**] day 2.
   - will pull PICC line
   - will need better access; consider femoral line since pt has R sided
   clot and L sided PICC line infxn
   - urine/sputum cultures pending
   - vanco/meropenem as above
   - consider stress dose steroids
   #) Ostomy: has significant ostomy output.  Liver service has been
   titrating octreotide/tinctue of opium for adequate control.
   - on octreotide and tincture of opium
   - wound care per recs: miconazole powder
   #) Low UOP
 Cr is stable, oliguric at 20 cc/hr.  Following closely.
   Urine Na is more c/w ATN, rather than hepatorenal syndrome or pre-renal
   disease.  Follow closely.
   #) Seizures:
   -continue keppra and phenytoin
   #) Liver failure from Sarcoidosis: s/p TIPS and TIPS revision, most
   recent EGD [**4-20**] w/ esophagitis (on PPI) but no varicies or portal
   gastropathy. No apparent history of SBP. On transplant list. No history
   of cirrhosis.
   - f/u liver recs
   - hypoglycemia
 started D10 while awaiting TPN.  Okay for now.
   #) F/E/N: had been getting TPN, will hold TPN for now.  Nutrition
   consult to consider tube feeds for improved gut use.  replete lytes PRN
   #) PPx: hep sc, PPI
   #) Access: left PICC
   #) FULL CODE
   #) Contact: [**Name (NI) 651**] [**Name (NI) 318**] [**Name (NI) 484**] [**Telephone/Fax (1) 6961**]
   #) Dispo: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2111-8-17**] 07:49 AM
   Prophylaxis:
   DVT: pboots, heparin
   Stress ulcer: famotidine
   VAP:  elevate HOB, mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2111-08-19 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**8-18**]
   -just one Bcx positive - if s.aureus, will change out line - if coag
   neg, will get another set of blood cx
   -increased vent to [**11-21**]
   Allergies:
   Cipro (Oral) (Ciprofloxacin Hcl)
   Hives;
   Doxycycline
   Hives; hallucin
   Paxil (Oral) (Paroxetine Hcl)
   hair loss;
   Quinine
   Rash;
   Compazine (Injection) (Prochlorperazine Edisylate)
   muscle spasm;
   Levaquin (Oral) (Levofloxacin)
   tendinitis of t
   Lithium
   Hives;
   Cefepime
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2111-8-17**] 09:45 AM
   Meropenem - [**2111-8-19**] 04:15 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2111-8-18**] 09:59 AM
   Heparin Sodium (Prophylaxis) - [**2111-8-19**] 12:33 AM
   Fentanyl - [**2111-8-19**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-8-19**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 36.4
C (97.6
   HR: 89 (87 - 117) bpm
   BP: 132/65(80) {86/45(55) - 150/110(115)} mmHg
   RR: 21 (12 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66.8 kg (admission): 66 kg
   Height: 61 Inch
             Total In:
                                                                  2,366 mL
                                                                    732 mL
   PO:
             TF:
   IVF:
                                                                  2,021 mL
                                                                    567 mL
   Blood products:
   Total out:
                                                                  2,302 mL
                                                                    688 mL
   Urine:
                                                                    327 mL
                                                                    138 mL
   NG:
                                                                  1,325 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                     64 mL
                                                                     44 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 493 (405 - 512) mL
   PS : 10 cmH2O
   RR (Spontaneous): 14
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI: 46
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: 7.27/50/64/20/-4
   Ve: 6.4 L/min
   PaO2 / FiO2: 128
   Physical Examination
   GEN: intubated, mildly sedated, appears in no distress, attempts to
   communicate with staff
   [**Name (NI) **]: mucous membranes dry, oropharynx clear
   CV: tachycardic, soft 2/6 systolic murmur
   LUNGS: coarse rhonchi in bilateral lung fields
   ABDOMEN: soft, distended, positive BS. ostomy bag in place with liquid
   output
   EXT: trace edema
   NEURO: follows commands, able to move [**Doctor Last Name **] extremities.
   Labs / Radiology
   116 K/uL
   7.9 g/dL
   83 mg/dL
   1.3 mg/dL
   20 mEq/L
   3.7 mEq/L
   54 mg/dL
   111 mEq/L
   140 mEq/L
   24.1 %
   10.0 K/uL
        [image002.jpg]
                             [**2111-8-17**]  07:03 AM
                             [**2111-8-17**]  08:55 AM
                             [**2111-8-17**]  08:42 PM
                             [**2111-8-18**]  04:25 AM
                             [**2111-8-18**]  07:31 AM
                             [**2111-8-18**]  04:28 PM
                             [**2111-8-19**]  04:03 AM
   WBC
   10.0
   10.0
   Hct
   24.8
   24.1
   Plt
   76
   116
   Cr
   1.2
   1.5
   1.3
   TCO2
   23
   25
   23
   24
   Glucose
   101
   115
   83
   Other labs: PT / PTT / INR:14.1/45.9/1.2, ALT / AST:36/64, Alk Phos / T
   Bili:530/2.1, Lactic Acid:1.2 mmol/L, Albumin:1.6 g/dL, LDH:197 IU/L,
   Ca++:6.6 mg/dL, Mg++:1.7 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   56 yo female with hepatic sarcoid, gastroparesis and portal
   gastropathy, h/o aspiration who was noted to have vomiting this AM with
   aspiration event and subsequently became hypoxic and tachypneic
   intubation, now also febrile
   #) Hypoxia/Respiratory failure: most likely cause is aspiration given
   witnessed aspiration event.
   -  Increased settings to [**11-21**] yesterday morning, now will try to
   decrease to [**11-16**].
   - sputum/urine cx pending from [**2111-8-17**] (noted to have thick secretions
   [**Name8 (MD) **] RN)
   - on vanco/meropenem day 2 for possible aspiration pneumonia while
   awaiting culture data; has h/o zosyn resistant enterobacter in sputum
   previously.  Given cx will d/c vanc.
   - albuterol/ipratropium inhalers; hold off on steroids for now
   #) Sepsis/fevers/tachycardia/hypotension: likely in the setting of
   aspiration with ? pneumonia vs pneumonitis as well as bacteremia (PICC
   line infection).  Could be urinary source, but less likely given time
   frame.  WBC stable at 10
   - bacteremia may be trangient vs. contaminant vs. true pathogen.  Will
   tx as true pathogen and cont vanc/[**Last Name (un) 430**] day 2.
   - Awaiting speciation of positive blood cx

if true pathogen will pull PICC line and will need either Left sided
   IJ or Fem line as Pt has R UE DVT (brachial involvement)
   - will need better access; consider femoral line since pt has R sided
   clot and L sided PICC line infxn
   - urine/sputum cultures pending
   - meropenem as above (vanc d/c based on cx data)
   #) Ostomy: has significant ostomy output.  Liver service has been
   titrating octreotide/tinctue of opium for adequate control.
   - on octreotide and tincture of opium
   - wound care per recs: miconazole powder
   #) Low UOP
 Cr is stable, oliguric at 327mL UOP yesterday.  Following
   closely.  Urine Na is more c/w ATN, rather than hepatorenal syndrome or
   pre-renal disease.  Follow closely.
   #) Seizures:
   -continue keppra and phenytoin
   #) Liver failure from Sarcoidosis: s/p TIPS and TIPS revision, most
   recent EGD [**4-20**] w/ esophagitis (on PPI) but no varicies or portal
   gastropathy. No apparent history of SBP. On transplant list. No history
   of cirrhosis.
   - f/u liver recs
   - hypoglycemia
 started D10 while awaiting TPN.  Once TPN started can
   d/c D10 and monitor.
   #) F/E/N: had been getting TPN, will hold TPN for now.  Nutrition
   consult to consider tube feeds for improved gut use.  replete lytes PRN
   #) PPx: hep sc, PPI
   #) Access: left PICC
   ICU Care
   Nutrition:
   Glycemic Control:  SSI on D10
   Lines:
   PICC Line - [**2111-8-17**] 07:49 AM
   Prophylaxis:
   DVT: SCD
   Stress ulcer: Famotidine
   VAP:  HOB>30, Oral care
   Comments:
   Communication: With Pt and Husband [**Name (NI) 318**] [**Name (NI) 484**] Comments:
   Code status: Full code
   Disposition: MICU

2111-08-20 06:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -on PS 5/5 overnight
   Allergies:
   Cipro (Oral) (Ciprofloxacin Hcl)
   Hives;
   Doxycycline
   Hives; hallucin
   Paxil (Oral) (Paroxetine Hcl)
   hair loss;
   Quinine
   Rash;
   Compazine (Injection) (Prochlorperazine Edisylate)
   muscle spasm;
   Levaquin (Oral) (Levofloxacin)
   tendinitis of t
   Lithium
   Hives;
   Cefepime
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2111-8-19**] 07:45 AM
   Meropenem - [**2111-8-20**] 04:30 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2111-8-19**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2111-8-19**] 10:14 PM
   Fentanyl - [**2111-8-20**] 12:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-8-20**] 06:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.9
   HR: 98 (86 - 105) bpm
   BP: 121/53(69) {105/46(62) - 153/72(90)} mmHg
   RR: 26 (15 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66.1 kg (admission): 66 kg
   Height: 61 Inch
             Total In:
                                                                  2,681 mL
                                                                    526 mL
   PO:
             TF:
   IVF:
                                                                  2,056 mL
                                                                    466 mL
   Blood products:
   Total out:
                                                                  2,623 mL
                                                                    338 mL
   Urine:
                                                                    498 mL
                                                                    188 mL
   NG:
                                                                  1,150 mL
                                                                    150 mL
   Stool:
                                                                    125 mL
   Drains:
   Balance:
                                                                     58 mL
                                                                    188 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 379 (363 - 482) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 99
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.31/42/113/19/-4
   Ve: 8 L/min
   PaO2 / FiO2: 226
   Physical Examination
   Labs / Radiology
   163 K/uL
   9.2 g/dL
   78 mg/dL
   1.5 mg/dL
   19 mEq/L
   4.6 mEq/L
   55 mg/dL
   105 mEq/L
   136 mEq/L
   27.7 %
   14.2 K/uL
        [image002.jpg]
                             [**2111-8-17**]  07:03 AM
                             [**2111-8-17**]  08:55 AM
                             [**2111-8-17**]  08:42 PM
                             [**2111-8-18**]  04:25 AM
                             [**2111-8-18**]  07:31 AM
                             [**2111-8-18**]  04:28 PM
                             [**2111-8-19**]  04:03 AM
                             [**2111-8-19**]  06:42 PM
                             [**2111-8-20**]  03:30 AM
   WBC
   10.0
   10.0
   14.2
   Hct
   24.8
   24.1
   27.7
   Plt
   76
   116
   163
   Cr
   1.2
   1.5
   1.3
   1.5
   TCO2
   23
   25
   23
   24
   22
   Glucose
   101
   115
   83
   78
   Other labs: PT / PTT / INR:14.1/45.9/1.2, ALT / AST:36/64, Alk Phos / T
   Bili:530/2.1, Lactic Acid:1.2 mmol/L, Albumin:1.6 g/dL, LDH:197 IU/L,
   Ca++:6.6 mg/dL, Mg++:1.7 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 IMPAIRED SKIN INTEGRITY
 HYPOGLYCEMIA
 HYPOTENSION (NOT SHOCK)
 HYPOXEMIA
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
   56 yo female with hepatic sarcoid, gastroparesis and portal
   gastropathy, h/o aspiration who was noted to have vomiting this AM with
   aspiration event and subsequently became hypoxic and tachypneic
   intubation, now also febrile
   #) Hypoxia/Respiratory failure: most likely cause is aspiration given
   witnessed aspiration event.
   -  Increased settings to [**11-21**] yesterday morning, now will try to
   decrease to [**11-16**].
   - sputum/urine cx pending from [**2111-8-17**] (noted to have thick secretions
   [**Name8 (MD) **] RN)
   - on vanco/meropenem day 2 for possible aspiration pneumonia while
   awaiting culture data; has h/o zosyn resistant enterobacter in sputum
   previously.  Given cx will d/c vanc.
   - albuterol/ipratropium inhalers; hold off on steroids for now
   #) Sepsis/fevers/tachycardia/hypotension: likely in the setting of
   aspiration with ? pneumonia vs pneumonitis as well as bacteremia (PICC
   line infection).  Could be urinary source, but less likely given time
   frame.  WBC stable at 10
   - bacteremia may be trangient vs. contaminant vs. true pathogen.  Will
   tx as true pathogen and cont vanc/[**Last Name (un) 430**] day 2.
   - Awaiting speciation of positive blood cx

if true pathogen will pull PICC line and will need either Left sided
   IJ or Fem line as Pt has R UE DVT (brachial involvement)
   - will need better access; consider femoral line since pt has R sided
   clot and L sided PICC line infxn
   - urine/sputum cultures pending
   - meropenem as above (vanc d/c based on cx data)
   #) Ostomy: has significant ostomy output.  Liver service has been
   titrating octreotide/tinctue of opium for adequate control.
   - on octreotide and tincture of opium
   - wound care per recs: miconazole powder
   #) Low UOP
 Cr is stable, oliguric at 327mL UOP yesterday.  Following
   closely.  Urine Na is more c/w ATN, rather than hepatorenal syndrome or
   pre-renal disease.  Follow closely.
   #) Seizures:
   -continue keppra and phenytoin
   #) Liver failure from Sarcoidosis: s/p TIPS and TIPS revision, most
   recent EGD [**4-20**] w/ esophagitis (on PPI) but no varicies or portal
   gastropathy. No apparent history of SBP. On transplant list. No history
   of cirrhosis.
   - f/u liver recs
   - hypoglycemia
 started D10 while awaiting TPN.  Once TPN started can
   d/c D10 and monitor.
   #) F/E/N: had been getting TPN, will hold TPN for now.  Nutrition
   consult to consider tube feeds for improved gut use.  replete lytes PRN
   #) PPx: hep sc, PPI
   #) Access: left PICC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2111-8-17**] 07:49 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2111-08-21 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2111-8-20**] 11:32 AM
 URINE CULTURE - At [**2111-8-20**] 02:13 PM
 BLOOD CULTURED - At [**2111-8-20**] 02:14 PM
 FEVER - 101.6
F - [**2111-8-21**] 06:00 AM
   [**8-20**]
   - Called to bedside for SOB.  Checked ABG, CXR and gave 2mg IV morphine
   and Albuterol neb.  Pt with relief after Tx
   Allergies:
   Cipro (Oral) (Ciprofloxacin Hcl)
   Hives;
   Doxycycline
   Hives; hallucin
   Paxil (Oral) (Paroxetine Hcl)
   hair loss;
   Quinine
   Rash;
   Compazine (Injection) (Prochlorperazine Edisylate)
   muscle spasm;
   Levaquin (Oral) (Levofloxacin)
   tendinitis of t
   Lithium
   Hives;
   Cefepime
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2111-8-19**] 07:45 AM
   Meropenem - [**2111-8-21**] 04:47 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2111-8-20**] 09:49 AM
   Furosemide (Lasix) - [**2111-8-21**] 06:14 AM
   Morphine Sulfate - [**2111-8-21**] 06:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-8-21**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.7
C (101.6
   HR: 127 (98 - 127) bpm
   BP: 193/76(104) {114/47(69) - 193/103(104)} mmHg
   RR: 40 (11 - 40) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 67.4 kg (admission): 66 kg
   Height: 61 Inch
             Total In:
                                                                  1,843 mL
                                                                    632 mL
   PO:
             TF:
   IVF:
                                                                  1,195 mL
                                                                    168 mL
   Blood products:
   Total out:
                                                                  4,728 mL
                                                                  1,225 mL
   Urine:
                                                                  1,228 mL
                                                                    225 mL
   NG:
                                                                  3,250 mL
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,885 mL
                                                                   -593 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: Standby
   Vt (Spontaneous): 372 (372 - 372) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 98%
   ABG: 7.37/33/62/19/-4
   Ve: 8.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   155 K/uL
   8.6 g/dL
   161 mg/dL
   1.5 mg/dL
   19 mEq/L
   4.1 mEq/L
   56 mg/dL
   107 mEq/L
   138 mEq/L
   26.7 %
   8.9 K/uL
        [image002.jpg]
                             [**2111-8-17**]  08:55 AM
                             [**2111-8-17**]  08:42 PM
                             [**2111-8-18**]  04:25 AM
                             [**2111-8-18**]  07:31 AM
                             [**2111-8-18**]  04:28 PM
                             [**2111-8-19**]  04:03 AM
                             [**2111-8-19**]  06:42 PM
                             [**2111-8-20**]  03:30 AM
                             [**2111-8-20**]  09:03 PM
                             [**2111-8-21**]  03:53 AM
   WBC
   10.0
   10.0
   14.2
   8.9
   Hct
   24.8
   24.1
   27.7
   26.7
   Plt
   76
   116
   163
   155
   Cr
   1.2
   1.5
   1.3
   1.5
   1.5
   TCO2
   25
   23
   24
   22
   20
   Glucose
   101
   115
   83
   78
   161
   Other labs: PT / PTT / INR:14.1/45.9/1.2, ALT / AST:45/55, Alk Phos / T
   Bili:652/2.4, Differential-Neuts:61.9 %, Band:0.0 %, Lymph:3.8 %,
   Mono:3.3 %, Eos:30.9 %, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL,
   LDH:284 IU/L, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   56 yo female with hepatic sarcoid, gastroparesis and portal
   gastropathy, h/o aspiration who was noted to have vomiting this AM with
   aspiration event and subsequently became hypoxic and tachypneic
   intubation, now also febrile
   #) Hypoxia/Respiratory failure
 most likely cause is aspiration given
   witnessed aspiration event.
   - extubated yesterday
   - on meropenem for possible aspiration pneumonia (has h/o zosyn
   resistant enterobacter in sputum previously)
 will continue meropenem,
   awaiting sensitivities
   - will continue albuterol/ipratropium inhalers
   - Pt had some SOB last night during which she stated she was anxious.
   ABG c/w hyperventilation.  Given 2mg IV morphine with good effect.  Pt
   remained comfortable throughout remainder of night.
   - CXR this AM shows white-out of left base, representing worsening PNA.
   #) Sepsis/fevers/tachycardia/hypotension
 likely in the setting of
   aspiration with ? pneumonia vs pneumonitis
   - blood cx grew coag neg staph in 1 bottle
 likely a contaminent; all
   other blood cx pending
   - urine cx growing yeast; sputum cx growing GNR
   - continue meropenem
   - WBC down to 8.9 today
 will trend and will reculture blood and urine
   as needed
   #) Ostomy
 has significant ostomy output.  Liver service has been
   titrating octreotide/tinctue of opium for adequate control.
   - on octreotide and tincture of opium
   - wound care per recs: miconazole powder
   #) Seizures:
   -continue keppra and phenytoin
   #) Liver failure from Sarcoidosis
   - f/u liver recs
   #) F/E/N: will start TPN today
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2111-8-20**] 06:00 PM 68 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2111-8-17**] 07:49 AM
   Prophylaxis:
   DVT: none
   Stress ulcer: Famotidine
   VAP:  none
   Comments:
   Communication: With Patient Comments:
   Code status: Full code
   Disposition: MICU

2111-08-22 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - IP did not see enough fluid to drain
   - U/S of abdomen did not show ascites
   - Called to bedside for SOB and anxiety.  Sat'ing 99 to 100 %.  Gave 2
   mg morphine IV
   - [**Name8 (MD) **] RN: pt has occasional tachycardia and hypertensive episodes to
   SBP 150-160s
   - this AM, pt denies sob or anxiety; she says these anxiety spells are
   chronic and not new for her.
   Allergies:
   Cipro (Oral) (Ciprofloxacin Hcl)
   Hives;
   Doxycycline
   Hives; hallucin
   Paxil (Oral) (Paroxetine Hcl)
   hair loss;
   Quinine
   Rash;
   Compazine (Injection) (Prochlorperazine Edisylate)
   muscle spasm;
   Levaquin (Oral) (Levofloxacin)
   tendinitis of t
   Lithium
   Hives;
   Cefepime
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2111-8-19**] 07:45 AM
   Meropenem - [**2111-8-21**] 04:47 AM
   Aztreonam - [**2111-8-22**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-8-21**] 10:00 PM
   Morphine Sulfate - [**2111-8-21**] 10:47 PM
   Lorazepam (Ativan) - [**2111-8-22**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-8-22**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 36.7
C (98
   HR: 111 (97 - 120) bpm
   BP: 148/56(76) {131/55(76) - 184/83(104)} mmHg
   RR: 22 (16 - 33) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 67.4 kg (admission): 66 kg
   Height: 61 Inch
             Total In:
                                                                  2,346 mL
                                                                    685 mL
   PO:
             TF:
   IVF:
                                                                    441 mL
                                                                    169 mL
   Blood products:
   Total out:
                                                                  3,405 mL
                                                                    280 mL
   Urine:
                                                                  1,105 mL
                                                                    280 mL
   NG:
                                                                  1,000 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,059 mL
                                                                    405 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ////
   Physical Examination
   Gen
l: resting in bed, NAD
   Lungs: [**Month (only) 38**] BS on right, rhonchi and wheezing bilaterally
   Abd: soft, mildly distended, mild tenderness in LUQ
   Labs / Radiology
   155 K/uL
   8.6 g/dL
   161 mg/dL
   1.5 mg/dL
   19 mEq/L
   4.1 mEq/L
   56 mg/dL
   107 mEq/L
   138 mEq/L
   26.7 %
   8.9 K/uL
        [image002.jpg]
                             [**2111-8-17**]  08:55 AM
                             [**2111-8-17**]  08:42 PM
                             [**2111-8-18**]  04:25 AM
                             [**2111-8-18**]  07:31 AM
                             [**2111-8-18**]  04:28 PM
                             [**2111-8-19**]  04:03 AM
                             [**2111-8-19**]  06:42 PM
                             [**2111-8-20**]  03:30 AM
                             [**2111-8-20**]  09:03 PM
                             [**2111-8-21**]  03:53 AM
   WBC
   10.0
   10.0
   14.2
   8.9
   Hct
   24.8
   24.1
   27.7
   26.7
   Plt
   76
   116
   163
   155
   Cr
   1.2
   1.5
   1.3
   1.5
   1.5
   TCO2
   25
   23
   24
   22
   20
   Glucose
   101
   115
   83
   78
   161
   Other labs: PT / PTT / INR:13.0/38.9/1.1, ALT / AST:45/55, Alk Phos / T
   Bili:652/2.4, Differential-Neuts:61.9 %, Band:0.0 %, Lymph:3.8 %,
   Mono:3.3 %, Eos:30.9 %, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL,
   LDH:284 IU/L, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Micro [**8-17**] sputum with sparse GNR, [**8-17**] urine with yeast
   Assessment and Plan
 ANXIETY
 ELECTROLYTE & FLUID DISORDER, OTHER
 IMPAIRED SKIN INTEGRITY
 HYPOGLYCEMIA
 HYPOTENSION (NOT SHOCK)
 HYPOXEMIA
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
   56 y/o female with hepatic sarcoid, gastroparesis and portal
   gastropathy, h/o aspiration who was noted to have vomiting this AM with
   aspiration event and subsequently became hypoxic and tachypneic
   requiring intubation
   #) Hypoxia/Respiratory failure
 most likely cause was aspiration given
   witnessed aspiration event.
   - extubated and off NC
   - switched from meropenem to aztreonam [**3-16**] questionable drug
   reaction/eosinophilia.  Will complete total 10 day course from
   meropenem start date of [**2111-8-17**].
   - Low grade temps and WBC trending down.
   - with regard to fever/low grade temps and eosinophilia, have
   considered SBP, pna, C diff, drug reaction.  C diff neg [**2111-8-21**].
   - will repeat sputum cx
   - will continue ipratropium inhaler; will stop albuterol inhaler [**3-16**]
   tachycardia
   - Pt had some SOB last night during which she stated she was anxious.
   ABG c/w hyperventilation.  Given 2mg IV morphine with good effect.  Pt
   remained comfortable throughout remainder of night.
   - will start ambien and IV ativan for her anxiety
   - IP did not see enough fluid to drain.
   #) Ostomy
 has significant ostomy output.  Liver service has been
   titrating octreotide/tinctue of opium for adequate control.
   - on octreotide and tincture of opium
   - wound care per recs: miconazole powder
   - Will check C.diff
   #) Tachycardia/hypertension
 currently felt to be related to her
   anxiety.
   - will monitor and start ambien with IV ativan
   - if not improving, will start BB
   #) Seizures:
   -continue keppra and phenytoin
   - Will check phenytoin level.
   #) Liver failure from Sarcoidosis
   - f/u liver recs
   #) F/E/N: will start TPN
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2111-8-21**] 01:06 PM 68 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2111-8-17**] 07:49 AM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: famotidine
   VAP:  off vent
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: likely transfer to floor this afternoon
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   Critical Care:
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   She has remained extubated over past 24 hrs and continues to have a
   weak cough with high risk for aspiration. She will need TPN, atrovent
   nebs ( tachycardia, anxiety), low dose ativan to help with anxiety with
   careful monitoring of mental status and continued antibiotics ( now on
   azteronam) while we monitor eospinophilia. If urine Eos are positive,
   we will increase dose of prednisone for short term. ( ? AIN to recent
   use of meropenem).
   Patient is ill and prognosis is guarded. She may leave ICU later today
   if respiratory status stable and no hemodynamic setback.
   Total time: 30 min
   _________
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 1973**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 1015**]
   [**Location (un) 7530**], KS-B23
   [**Location (un) 223**], [**Numeric Identifier 4370**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1973**], MD
   on:[**2111-8-22**] 15:58 ------

2111-08-23 04:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2111-8-22**] 09:00 PM
   - ambien and ativan added for anxiety
   - low dose metoprolol added for htn, tachycardia
   - called to bedside for HR 120s, BP 230s --> w/u for htn emergency
   initiated. EKG with some mild ST changes, cycle CEs, CXR. Given 6
   morphine, 1 ativan, 10 lopressor, and 10 labetalol in total.
   Allergies:
   Cipro (Oral) (Ciprofloxacin Hcl)
   Hives;
   Doxycycline
   Hives; hallucin
   Paxil (Oral) (Paroxetine Hcl)
   hair loss;
   Quinine
   Rash;
   Compazine (Injection) (Prochlorperazine Edisylate)
   muscle spasm;
   Levaquin (Oral) (Levofloxacin)
   tendinitis of t
   Lithium
   Hives;
   Cefepime
   Confusion/Delir
   Last dose of Antibiotics:
   Meropenem - [**2111-8-21**] 04:47 AM
   Aztreonam - [**2111-8-23**] 01:33 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2111-8-22**] 08:46 AM
   Lorazepam (Ativan) - [**2111-8-22**] 09:30 PM
   Morphine Sulfate - [**2111-8-22**] 10:15 PM
   Metoprolol - [**2111-8-22**] 10:15 PM
   Labetalol - [**2111-8-22**] 10:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-8-23**] 04:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.4
   HR: 103 (86 - 111) bpm
   BP: 125/43(59) {119/43(59) - 260/104(139)} mmHg
   RR: 25 (18 - 37) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 67.4 kg (admission): 66 kg
   Height: 61 Inch
             Total In:
                                                                  2,505 mL
                                                                    560 mL
   PO:
             TF:
   IVF:
                                                                    591 mL
                                                                    149 mL
   Blood products:
   Total out:
                                                                  3,455 mL
                                                                     95 mL
   Urine:
                                                                    855 mL
                                                                     95 mL
   NG:
                                                                  1,100 mL
   Stool:
   Drains:
   Balance:
                                                                   -950 mL
                                                                    465 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   Gen
l: resting in bed, NAD
   Lungs: [**Month (only) 38**] BS on right, rhonchi and wheezing bilaterally
   Abd: soft, mildly distended, mild tenderness in LUQ
   Labs / Radiology
   151 K/uL
   7.5 g/dL
   140 mg/dL
   1.3 mg/dL
   25 mEq/L
   3.6 mEq/L
   64 mg/dL
   105 mEq/L
   142 mEq/L
   24.0 %
   7.1 K/uL
        [image002.jpg]
                             [**2111-8-18**]  07:31 AM
                             [**2111-8-18**]  04:28 PM
                             [**2111-8-19**]  04:03 AM
                             [**2111-8-19**]  06:42 PM
                             [**2111-8-20**]  03:30 AM
                             [**2111-8-20**]  09:03 PM
                             [**2111-8-21**]  03:53 AM
                             [**2111-8-22**]  06:12 AM
                             [**2111-8-22**]  08:14 AM
                             [**2111-8-22**]  10:41 PM
   WBC
   10.0
   14.2
   8.9
   7.1
   Hct
   24.1
   27.7
   26.7
   24.0
   Plt
   116
   163
   155
   151
   Cr
   1.5
   1.3
   1.5
   1.5
   1.3
   TropT
   0.08
   TCO2
   24
   22
   20
   Glucose
   115
   83
   78
   161
   140
   Other labs: PT / PTT / INR:13.9/42.6/1.2, CK / CKMB /
   Troponin-T:21//0.08, ALT / AST:31/35, Alk Phos / T Bili:684/2.2,
   Differential-Neuts:61.9 %, Band:0.0 %, Lymph:3.8 %, Mono:3.3 %,
   Eos:30.9 %, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL, LDH:242 IU/L,
   Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 ANXIETY
 ELECTROLYTE & FLUID DISORDER, OTHER
 IMPAIRED SKIN INTEGRITY
 HYPOGLYCEMIA
 HYPOTENSION (NOT SHOCK)
 HYPOXEMIA
 H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
   56 y/o female with hepatic sarcoid, gastroparesis and portal
   gastropathy, h/o aspiration who was noted to have vomiting this AM with
   aspiration event and subsequently became hypoxic and tachypneic
   requiring intubation
   #) Hypoxia/Respiratory failure
 most likely cause was aspiration given
   witnessed aspiration event.
   - extubated and off NC
   - switched from meropenem to aztreonam [**3-16**] questionable drug
   reaction/eosinophilia.  Will complete total 10 day course from
   meropenem start date of [**2111-8-17**].
   - Low grade temps and WBC trending down.
   - with regard to fever/low grade temps and eosinophilia, have
   considered SBP, pna, C diff, drug reaction.  C diff neg [**2111-8-21**].
   - will repeat sputum cx
   - will continue ipratropium inhaler; will stop albuterol inhaler [**3-16**]
   tachycardia
   - Pt had some SOB last night during which she stated she was anxious.
   Morphine works best for these panic attacks.
   - will start ambien and IV ativan for her anxiety
   - IP did not see enough fluid to drain.
   - of note, pt with weak cough and still poses aspiration risk.
   #) Ostomy
 has significant ostomy output.  Liver service has been
   titrating octreotide/tinctue of opium for adequate control.
   - on octreotide and tincture of opium
   - wound care per recs: miconazole powder
   - Will check C.diff
   #) Tachycardia/hypertension
 currently felt to be related to her
   anxiety.
   - will monitor and start morphine, ambien with IV ativan
   - if not improving, will start BB
   #) Eosinophilia: suspected to be medication induced vs. AIN.  Urine
   eosinophils neg.
   #) Seizures:
   -continue keppra and phenytoin
   - Will check phenytoin level.
   #) Liver failure from Sarcoidosis
   - f/u liver recs
   #) F/E/N: TPN
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2111-8-22**] 11:26 AM 63 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2111-8-17**] 07:49 AM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: famotidine
   VAP:  off vent
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: transfer to floor
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   Critical Care:
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   She has had intermittent anxiety that responds to a combination of
   ativan and morphine. She has also needed dose escalation of her BP
   meds. She remains NPO with copious output from NG tube.
   She will need continued TPN and assessment for reasons regarding NG
   output by GI staff. She will maintain strict aspiration precautions
   even while sleeping. She continues on aztreonam for now for a full
   course. Eos will be checked again in 24 hrs. Prednisone dose may need
   to be increased for a few days if still high ( i.e > 30%). Dr [**Last Name (STitle) 9587**]
   may opine on this if no other etiology for eosinophilia.
   Remainder of plan as outlined above.
   Patient is ill but stable for transfer to the floor today and her
   husband has been updated
   Total time: 30 min
   _________
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 1973**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 1015**]
   [**Location (un) 7530**], KS-B23
   [**Location (un) 223**], [**Numeric Identifier 4370**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1973**], MD
   on:[**2111-8-23**] 15:13 ------